US04299769
To a mixture of 0.02 moles of 4-(2-furoyl)crotonic acid in 100 ml. of tetrahydrofuran is added 0.022 moles of N,N'-carbonyldiimidazole. The mixture is stirred for 3 hours at room temperature and 0.021 moles of L-proline are added. The mixture is refluxed 2 hours and stirred at room temperature for 16 hours to give 1-[4-(2-furoyl)crotonyl]-L-proline.

reactant | 4-(2-furoyl)crotonic acid | 0.02 moles | O1C(=CC=C1)C(=O)C/C=C/C(=O)O | C9H8O4
reactant | L-proline | 0.021 moles | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[4-(2-furoyl)crotonyl]-L-proline | O1C(=CC=C1)C(=O)C/C=C/C(=O)N1[C@H](C(=O)O)CCC1 | C14H15NO5
